US09302988B2
Step 1: 1-Benzyl-3-(4-chlorophenyl)-N-(2,2-dimethyl-propyl)-N-methyl-4-methylsulfonyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide (SC-259)
1-Benzyl-4-bromo-3-(4-chlorophenyl)-N-(2,2-dimethylpropyl)-N-methyl-5-(trifluoromethyl)pyrrole-2-carboxamide (100 mg, 0.18 mmol) followed by SODIUM METHANESULFINATE (4.0 equiv., 0.078 g, 0.74 mmol), COPPER(I) TRIFLATE BENZENE COMPLEX (0.1 equiv., 0.010 g, 0.018 mmol), DIMETHYL SULFOXIDE (0.6 mL) and N,N′-DIMETHYLETHYLENEDIAMINE (0.2 equiv., 0.003 g, 0.037 mmol) added to reactivial. Flushed with Nitrogen and heated at 140° C. for 18 hours (overnight). Black solid residue formed. Work Up: Diluted with 50 ml Dichloromethane and 100 ml Water then filtered to remove solids. Dichloromethane/Water shaken and separated. Aqueous extracted 2×50 ml Dichloromethane. Organics combined and filtered through hydrophobic frit, then reduced under vacuum. Purification: Purified via Preparative HPLC over 2 injections using 50-95% acetonitrile/water (0.1% Formic Acid) over 15 minutes collecting at 254 nm. Pure fractions combined and reduced under vacuum to yield product as 51.4 mg (0.09 mmol) beige solid.

reactant | 1-Benzyl-4-bromo-3-(4-chlorophenyl)-N-(2,2-dimethylpropyl)-N-methyl-5-(trifluoromethyl)pyrrole-2-carboxamide | 0.18 mmol, 100 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)Br)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C)(C)C | C25H25BrClF3N2O
reactant | SODIUM METHANESULFINATE | 0.74 mmol, 0.078 g, 4.0 equiv. | CS(=O)[O-].[Na+]
reactant | DIMETHYL SULFOXIDE | 0.6 mL | CS(=O)C | C2H6OS
reactant | N,N′-DIMETHYLETHYLENEDIAMINE | 0.037 mmol, 0.003 g, 0.2 equiv. | CNCCNC | C4H12N2
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | 1-Benzyl-3-(4-chlorophenyl)-N-(2,2-dimethyl-propyl)-N-methyl-4-methylsulfonyl-5-(trifluoromethyl)-1H-pyrrole-2-carboxylic acid amide | 0.09 mmol, 51.4 mg | C(C1=CC=CC=C1)N1C(=C(C(=C1C(F)(F)F)S(=O)(=O)C)C1=CC=C(C=C1)Cl)C(=O)N(C)CC(C)(C)C | C26H28ClF3N2O3S
